US04623650
3-Amino-2,6-difluorobromobenzene
A mixture of 31.2 g of 3-bromo-2,4-difluoronitrobenzene, 150 ml concentrated HCl and 150 g stannous chloride dihydrate was placed in a preheated oil bath at 60° C. A small quantity of diethyl ether was then added to bring about solution. After heating at 60° C. for 30 minutes, the mixture was cooled and then poured into 1500 ml ice/water. The solution was then basified to pH 13 using 30% aqueous sodium hydroxide while maintaining the temperature below 25° C. by external cooling. The mixture was extracted three times with chloroform and the combined organic extracts were washed with water. The organic phase was dried and evaporated to yield a white solid, m.p. 77°-78° C., yield 90.5% (24.7 g).

reactant | 3-bromo-2,4-difluoronitrobenzene | 31.2 g | BrC=1C(=C(C=CC1F)[N+](=O)[O-])F | C6H2BrF2NO2
reactant | HCl | 150 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-Amino-2,6-difluorobromobenzene | yield 90.5% | NC=1C(=C(C(=CC1)F)Br)F | C6H4BrF2N
